US07915250B2
1,1-Dimethylethyl(2R)-2-(3-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}azetidin-3-yl)piperidine-1-carboxylate (60.8 mg, 0.16 mmol) and 10% Pd/C (30 mg) were taken into methanol (2 mL) and the mixture hydrogenated at ambient pressure for one hour. The suspension was then filtered through a celite pad and concentrated then dried in vacuo to a colorless solid. The solid amine was taken into THF (1 mL) followed by addition of DIPEA (42 μL, 0.24 mmol) and 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoyl fluoride (63 mg, 0.16 mmol), prepared using procedures similar to those described in Reference 1, and the mixture stirred at room temperature for 30 minutes. The reaction mixture was partitioned with ethyl acetate and 1 N aqueous hydrochloric acid and the organic layer washed with brine, dried over anhydrous magnesium sulfate then filtered and concentrated. Purification of the residue by silica gel flash chromatography using hexanes:ethyl acetate 3:2 as eluent afforded 1,1-dimethylethyl(2R)-2-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate (74.9 mg, 74% yield) as an amorphous solid. 1,1-Dimethylethyl(2R)-2-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate 1H NMR (400 MHz, CDCl3): 8.53 (br s, 0.5H), 8.40 (br s, 0.5H), 7.41-7.38 (dd, 1H), 7.34-7.31 (dt, 1H), 7.17-7.14 (m, 1H), 6.86-6.79 (m, 1H), 6.63-6.587 (m, 1H), 4.24-3.90 (m, 4H), 3.37-3.23 (m, 1H), 2.90-2.80 (m, 1H), 1.85-1.54 (m, 7H), 1.43 (s, 9H); MS (EI) for C26H29F3IN3O4: 576 (M-C4H9+).

reactant | 1,1-Dimethylethyl(2R)-2-(3-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}azetidin-3-yl)piperidine-1-carboxylate | 0.16 mmol, 60.8 mg | OC1(CN(C1)C(=O)OCC1=CC=CC=C1)[C@@H]1N(CCCC1)C(=O)OC(C)(C)C | C21H30N2O5
reactant | DIPEA | 0.24 mmol, 42 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoyl fluoride | 0.16 mmol, 63 mg | FC=1C(=C(C(=O)F)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H6F4INO
catalyst | Pd/C | 30 mg | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | 1,1-dimethylethyl(2R)-2-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]piperidine-1-carboxylate | 74.9 mg, 74% yield | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)[C@@H]1N(CCCC1)C(=O)OC(C)(C)C)NC1=C(C=C(C=C1)I)F | C26H29F3IN3O4
